US04897105
N-(2-Chlorophenylsulfonyl)-N'-(4-methoxy-6-methyl-2pyrimidinyl)thiourea [Compound No.(28)]
A solution of 5.0 g of methyl N-(2-chlorophenylsulfonyl)dithiocarbamate in 20 ml of xylene is stirred for 3.5 hours with heating at 145° C. During the heating, methylmercaptan gas is generated. After the reaction is completed, xylene is removed under reduced pressure to yield a pale yellow oil (IR: strong absorption band of -SO2NCS at 1900 cm-1). The oily substance is dissolved in 50 ml of acetonitrile, to which 2.8 g of 2-amino-4-methoxy-6-methylpyrimidine is added and stirred for 30 minutes at 50° C. The precipitated crystals are collected by filtration, and recrystallized from acetonitrile to give 5.6 g of the title compound as a white prism. mp 186.5°~187.5° C.

reactant | methyl N-(2-chlorophenylsulfonyl)dithiocarbamate | 5.0 g | ClC1=C(C=CC=C1)S(=O)(=O)NC(SC)=S | C8H8ClNO2S3
reactant | methylmercaptan | CS | CH4S
reactant | 2-amino-4-methoxy-6-methylpyrimidine | 2.8 g | NC1=NC(=CC(=N1)OC)C | C6H9N3O
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | N-(2-Chlorophenylsulfonyl)-N'-(4-methoxy-6-methyl-2pyrimidinyl)thiourea | 5.6 g | ClC1=C(C=CC=C1)S(=O)(=O)NC(=S)NC1=NC(=CC(=N1)OC)C | C13H13ClN4O3S2
